US07338958B2
350 mg of 1-(cyclopropylsulfanyl)-4-nitrobenzene is dissolved in 5 ml of acetonitrile and mixed with 10 mg of iron(III)-chloride hexahydrate. After 10 minutes of stirring at room temperature, 450 mg of periodic acid is added thereto while being cooled. The mixture is stirred for 30 minutes at room temperature, cooled in an ice bath and mixed drop by drop with semi-saturated sodium disulfite solution. It is diluted with methylene chloride, washed with water, sodium bicarbonate solution and saturated sodium chloride solution, and concentrated by evaporation. After purification by flash chromatography, 270 mg of (RS)-1-(cyclopropylsulfinyl)-4-nitrobenzene is obtained.

reactant | 1-(cyclopropylsulfanyl)-4-nitrobenzene | 350 mg | C1(CC1)SC1=CC=C(C=C1)[N+](=O)[O-] | C9H9NO2S
reactant | periodic acid | 450 mg | I(=O)(=O)(=O)O | HIO4
reactant | sodium disulfite | S(=O)([O-])OS(=O)[O-].[Na+].[Na+]
solvent | acetonitrile | 5 ml | C(C)#N | C2H3N
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
catalyst | iron(III)-chloride hexahydrate | 10 mg | O.O.O.O.O.O.[Fe](Cl)(Cl)Cl
product | (RS)-1-(cyclopropylsulfinyl)-4-nitrobenzene | 270 mg | C1(CC1)S(=O)C1=CC=C(C=C1)[N+](=O)[O-] | C9H9NO3S
